US05104888
Ethyl 3-{4-[6-acetoxy-2-(3,7-dimethyloctyl)-5,7,8-trimethyl-4-oxochroman-2-ylmethoxy]phenyl}-2-chloropropionate (Step D3)
Following the same procedure as described in Preparation 18, 1.6 g of 6-acetoxy-2-(4-aminophenoxymethyl)-2-(3,7-dimethyloctyl)-5,7,8-trimethylchroman-4-one (prepared as described in Preparation 32), 0.28 g of sodium nitrite, 1.7 ml of concentrated hydrochloric acid, 3.3 ml of ethyl acrylate and 0.1 g of cuprous oxide were reacted, to give the title compound.

reactant | 6-acetoxy-2-(4-aminophenoxymethyl)-2-(3,7-dimethyloctyl)-5,7,8-trimethylchroman-4-one | 1.6 g | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(CCC(CCCC(C)C)C)COC1=CC=C(C=C1)N)=O)C | C31H43NO5
reactant | sodium nitrite | 0.28 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 1.7 ml | Cl | ClH
reactant | ethyl acrylate | 3.3 ml | C(C=C)(=O)OCC | C5H8O2
product | Ethyl 3-{4-[6-acetoxy-2-(3,7-dimethyloctyl)-5,7,8-trimethyl-4-oxochroman-2-ylmethoxy]phenyl}-2-chloropropionate | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(CCC(CCCC(C)C)C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)=O)C | C36H49ClO7
